US05571825
To a -35° to -40° C. solution of 2-(then-2-oyl)thiophene (Maybridge of Cornwall, UK) (500 mg, 2.60 mmol) in 10 mL of methylene chloride, is added dropwise a 1M solution of diisobutylaluminum hydride in methylene chloride (6.50 mL, 6.50 mmol) over 20 minutes. The reaction is stirred at -40° C. for 2.5 hours and then quenched by the slow addition of 10 mL of methanol. The mixture is warmed to room temperature and poured into 100 mL of saturated aqueous sodium tartrate. The aqueous solution is extracted with several portions of methylene chloride, the organic extracts combined, and dried over magnesium sulfate. Chromatography on silica gel, eluting with a 1:2 mixture of ethyl acetate to hexane, gives di-2-thienylmethanol as a light orange solid in 54% yield.

reactant | 2-(then-2-oyl)thiophene | 2.60 mmol, 500 mg | C(=O)(C1=CC=CS1)C=1SC=CC1 | C9H6OS2
reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6.50 mmol, 6.50 mL | C(Cl)Cl | CH2Cl2
product | di-2-thienylmethanol | 54% yield | S1C(=CC=C1)C(O)C=1SC=CC1 | C9H8OS2
